US06977262B2
Methyl 4,7-dihydro-6-methoxymethyl-4-(2-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-methoxybenzaldehyde, 3-aminopyrazole and methyl 4-methoxyacetoacetate in the same manner as in Example 1.

reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | methyl 4-methoxyacetoacetate | COCC(CC(=O)OC)=O | C6H10O4
product | Methyl 4,7-dihydro-6-methoxymethyl-4-(2-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | COCC1=C(C(C=2C(N1)=NNC2)C2=C(C=CC=C2)OC)C(=O)OC | C17H19N3O4
